US08232273B2
Step 1: Preparation of tert-butyl 8-(benzo[d]thiazol-2-ylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (1A)
To a solution of 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid (6.8 g, 24.5 mmol) and benzo[d]thiazol-2-amine (5.52 g, 36.8 mmol) in DCM (80 mL) was added EDCI (9.4 g, 49.04 mmol) and DMAP (6 g, 49 mmol). The mixture was stirred at rt overnight. The reaction mixture was diluted with DCM (400 mL), washed with 5% aq. HCl, water, brine, dried over Na2SO4, and concentrated under reduced pressure to provide 8.5 g of the desired product tert-butyl 8-(benzo[d]thiazol-2-ylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (1A): 1H NMR (300 MHz, CDCl3) δ ppm 7.83 (1H, m), 7.48 (1H, d), 7.34 (4H, m), 7.19 (1H, t), 4.91 (2H, m), 3.67 (2H, t), 2.92 (2H, t), 1.47 (9H, m). MS (ESI(+)): m/z 410 (M+H).

reactant | 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | 24.5 mmol, 6.8 g | C(C)(C)(C)OC(=O)N1CC2=C(C=CC=C2CC1)C(=O)O | C15H19NO4
reactant | benzo[d]thiazol-2-amine | 36.8 mmol, 5.52 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | EDCI | 49.04 mmol, 9.4 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 49 mmol, 6 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 8-(benzo[d]thiazol-2-ylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 8.5 g | S1C(=NC2=C1C=CC=C2)NC(=O)C=2C=CC=C1CCN(CC21)C(=O)OC(C)(C)C | C22H23N3O3S
